US06414148B1
A solution of 2-(2-methoxyethoxy)ethanol (90 mg, 0.75 mmol) in methylene chloride (1 ml) was added to tributylphosphine (320 mg, 1.58 mmol) and 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (200 mg, 0.63 mmol), (prepared as described for the starting material in Example 2), in methylene chloride (6 ml) at 0° C. under argon. To the resulting mixture 1,1′-(azodicarbonyl)dipiperidine (400 mg, 1.6 mmol) was added in portions. The mixture was allowed to warm to ambient temperature and stirred under argon for 2 hours. Ether (5 ml) was added, and the precipitated solids were removed by filtration. The volatiles were removed from the filtrate by evaporation, and the residue was purified by column chromatography eluting with methylene chloride/methanol (90/10). The resulting partially purified product was dissolved in acetone, and ethereal hydrogen chloride (0.6 ml of a 1M solution, 0.6 mmol) added. The resulting precipitated product was collected by filtration and dried to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazoline hydrochloride (128 mg, 44%).

reactant | 2-(2-methoxyethoxy)ethanol | 0.75 mmol, 90 mg | COCCOCCO | C5H12O3
reactant | tributylphosphine | 1.58 mmol, 320 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.63 mmol, 200 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.6 mmol, 400 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | Ether | 5 ml | CCOCC | C4H10O
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazoline hydrochloride | 128 mg, 44% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCOCCOC)C=C1)F | InChI=1S/C20H21ClFN3O4.ClH/c1-26-5-6-28-7-8-29-19-11-17-14(10-18(19)27-2)20(24-12-23-17)25-16-4-3-13(21)9-15(16)22;/h3-4,9-12H,5-8H2,1-2H3,(H,23,24,25);1H
